US06063778
To a solution of p-methoxybenzyl 7β-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-[(Z)-3-chloro-1-propen-1-yl]3-cephem-4-carboxylate(1.5 g) dissolved in acetone(30 ml), sodium iodide(0.82 g) was added thereto under ice-cooling. The resulting solution was stirred for 15 minutes under ice-cooling and for additional 60 minutes at room temperature. The solvent was distilled off, and the residue was extracted with ethyl acetate. The extract was washed with a 10%-sodium thiosulfate and with a saturated brine, followed by drying with addition of anhydrous magnesium sulfate. The dried extract was concentrated under reduced pressure and the resulting precipitates were collected by filtration to obtain 1.2 g of p-methoxybenzyl 7β-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-[(E)-3-iodo-1-propen-1-yl]3-cephem-4-carboxylate. The powder was dissolved in N,N-dimethylformamide(2 ml), and 5-dimethylaminomethyl-4-methylthiazole(0.31 g) was added thereto at -10° C. The resulting solution was stirred for 4 hours at -10° C. 10%-sodium thiosulfate(70 ml) was added to the reaction solution, and the resulting precipitates were collected by filtration to obtain the yellowish brown powder. The powder was stirred in 88% formic acid(1.8 ml) for an hour at 40° C., and acetone(400 ml) was added thereto. The resulting precipitates were collected by filtration and washed with acetone. The precipitates were chromatographed over silicagel [acetonitrile:distilled water 4:1(v/v)], Sephadex LH-20(or Amberlite XAD-2), and then lyophilized to obtain the target product (250 mg) as white solid.

reactant | p-methoxybenzyl 7β-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-[(Z)-3-chloro-1-propen-1-yl]3-cephem-4-carboxylate | 1.5 g | CO\N=C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)\C=C/CCl)C(=O)OCC2=CC=C(C=C2)OC)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C43H38ClN5O6S2
reactant | sodium iodide | 0.82 g | [I-].[Na+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | p-methoxybenzyl 7β-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-[(E)-3-iodo-1-propen-1-yl]3-cephem-4-carboxylate | 1.2 g | CO\N=C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)\C=C\CI)C(=O)OCC2=CC=C(C=C2)OC)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C43H38IN5O6S2
